US05864039
1H-NMR (CDCl3,ppm) δ: 1.36-1.82(20 H,m), 2.36-2.88(4 H,m), 2.60-2.67(2 H,m), 2.97(2 H,t,J=7.3 Hz), 3.14(2 H,d,J=6.6 Hz), 5.01(1 H,br), 7.42-7.59(3 H,m), 7.93-7.97(2 H,m) (2) 4-Hydroxy-1-(6-oxo-6-phenylhexyl)-4-tert-butoxycarbonylaminomethylpiperidine (3.6 g) was dissolved in isopropyl alcohol (30 ml) and 15% hydrochloric acid-isopropyl alcohol (10 ml) was added under ice-cooling, which was followed by stirring at 60° C. for 3 hr. The solvent was evaporated under reduced pressure to give 2.92 g of 4-aminomethyl-4-hydroxy-1-(6-oxo-6-phenylhexyl)piperidine dihydrochloride.

reactant | 4-Hydroxy-1-(6-oxo-6-phenylhexyl)-4-tert-butoxycarbonylaminomethylpiperidine | 3.6 g | OC1(CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)CNC(=O)OC(C)(C)C | C23H36N2O4
reactant | hydrochloric acid isopropyl alcohol | 10 ml | Cl.C(C)(C)O
solvent | isopropyl alcohol | 30 ml | C(C)(C)O | C3H8O
product | 4-aminomethyl-4-hydroxy-1-(6-oxo-6-phenylhexyl)piperidine dihydrochloride | 2.92 g | Cl.Cl.NCC1(CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)O | InChI=1S/C18H28N2O2.2ClH/c19-15-18(22)10-13-20(14-11-18)12-6-2-5-9-17(21)16-7-3-1-4-8-16;;/h1,3-4,7-8,22H,2,5-6,9-15,19H2;2*1H
